US05023255
(a) N-(3-Ethylphenyl)glycine, methyl ester (Intermediate 38)
To m-ethylaniline (50 g; 0.413 mol) and sodium bicarbonate (69.33 g; 0.825 mol) was added methyl chloroacetate (39.79 ml; 0.454 mol) and acetonitrile (50 ml). The mixture was allowed to heat to 130° with stirring from 48 hours. The mixture was then taken up in ether. The ether extract was treated with 2N hydrochloric acid, after which the acid layer was extracted with ether. The combined organic extracts were washed with water, brine and then dried (Na2SO4). Filtration and evaporation of the solvent gave the title compound (36.95 g: 46%) as an oil.

reactant | m-ethylaniline | 0.413 mol, 50 g | C(C)C=1C=C(N)C=CC1 | C8H11N
reactant | sodium bicarbonate | 0.825 mol, 69.33 g | C([O-])(O)=O.[Na+]
reactant | methyl chloroacetate | 0.454 mol, 39.79 ml | ClCC(=O)OC | C3H5ClO2
reactant | acetonitrile | 50 ml | C(C)#N | C2H3N
solvent | ether | CCOCC | C4H10O
product | N-(3-Ethylphenyl)glycine, methyl ester | 36.95 g, 46% | C(C)C=1C=C(C=CC1)NCC(=O)OC | C11H15NO2
